US05958944
Thionyl chloride (1.43 ml) and dimethylformamide (2 drops) were added to a solution of (R)-(+)-4-(1-benzyloxycarbonylaminoethyl)-benzoic acid (2 g) in dichloromethane (20 ml), and the mixture was refluxed under heating for 1 hour. After the reaction, the solvent was evaporated under reduced pressure to give (R)-4-(1-benzyloxycarbonylaminoethyl)benzoyl chloride as crystals. Then, the crystals were dissolved in acetonitrile (10 ml) and the solution was dropwise added to a solution of 4-aminopyridine (525 mg) and diisopropylethylamine (1.17 ml) in acetonitrile (20 ml) under ice-cooling, which was followed by stirring at room temperature for 5 hours. After the reaction, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried. The solvent was evaporated under reduced pressure. The obtained crystals were recrystallized from methanol-ethyl acetate-hexane to give 1.87 g of (R)-N-(4-pyridyl)-4-(1-benzyloxycarbonylaminoethyl)benzamide.

reactant | Thionyl chloride | 1.43 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (R)-(+)-4-(1-benzyloxycarbonylaminoethyl)-benzoic acid | 2 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C1=CC=C(C(=O)O)C=C1 | C17H17NO4
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (R)-4-(1-benzyloxycarbonylaminoethyl)benzoyl chloride | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C1=CC=C(C(=O)Cl)C=C1 | C17H16ClNO3
